Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
Characterization of seizures
 
Major Surgical or Invasive Procedure:
EEG Longterm Monitoring
 
History of Present Illness:
This is a ___ year old R-handed ___ who with a history of epilepsy
secondary to TBI, who now presents for LTM and characterization
of his events, at the request of his epileptologist, Dr.
___, due to a cluster of recent breakthrough seizures.
The history of epilepsy began ___ years ago at the age of ___, ___
year after an MVA that resulted in a wooden post being embedded
his skull. He also suffered residual deficits of R hemiplegia,
with recovery of his ability to walk after rehab, and cognitive 
&
behavioral problems. 

SEIZURE TYPES:
1. Complex partial seizure: These seizures have a widely 
variable
presentation. The pt does not have an aura and loses
consciousness with these episodes. His mom and sister describe
them as R upper extremity convulsions with head turning.  
Seizure
duration is typically ___ min. Oftentimes he experiences a
second seizure ___ hours later. These seizures typically occur
every few months but have not happened in the past year and a
half. He has occasional generalized tonic clonic seizures,  the
most recent of which was in ___, with tongue biting and one
episode of urine incontinence.  The longest seizure free 
interval
has been a year and a half (___). There is history of
physical injury secondary to falls when he seizes.
Postictal symptoms include confusion and lethargy lasting 12
hours. For two weeks following these episodes, he suffers from
language deficits and memory loss.
Possible lateralizing signs by history: R hemiparesis, language
aphasia, memory loss

2. Unclear, possibly complex partial, episodes of behavioral
arrest: Between ___ and ___ he has 
experienced
3 seizures with loss of consciousness. While he cannot recall 
the
events leading up to these episodes, per his mom he said "it's
coming" before one of his episodes. He either has a blank stare
or an upward gaze but otherwise does not move. These seizures
typically last ___ min. The most recent occurrence was in
___. He incurred physical injury to his toe and arm
after falling during these episodes. After these seizures, he is
confused and noninteractive (does not eat or talk) for 2 hours.
 
Past Medical History:
1. MVA s/p craniotomy in ___ and skull repair in ___
2. Epilepsy
3. Hypercholesterolemia
 
Social History:
___
Family History:
Mother ___ yo, hypercholesterolemia, htn, asthma.
Father ___ yo, hypercholetsrolemia, htn, DM. 
No history of epilepsy

 
Physical Exam:
Admission Physical Exam:

General: NAD, sitting in bed comfortably. R arm, wrist, and
fingers flexed.
- Head: L-sided surgical scar, no conjunctival pallor or 
icterus,
no oropharyngeal lesions
- Neck: Supple, no nuchal rigidity. No lymphadenopathy or
thyromegaly.
- Cardiovascular: carotids with normal volume & upstroke; RRR, 
no
M/R/G
- Respiratory: Nonlabored, clear to auscultaton with good air
movement bilaterally
- Abdomen: nondistended, normal bowel sounds, no
tenderness/rigidity/guarding, no hepatosplenomegaly to palpation
and percussion
- Extremities: Warm, no cyanosis/clubbing/edema, palpable
radial/dorsalis pedis pulses. No synovitis of
elbows/wrists/fingers.
- Back: spine straight, no tenderness to palpation
- Skin: No rashes or lesions. No neurocutaneous stigmata.

Neurological Exam:
Mental Status: Awake, alert, oriented to person and time but not
to place. Disinhibited behavior. Concentration impaired when
naming days of the week in order. Language fluent without
dysarthria but with impaired verbal comprehension. Refused to be
tested for repetition. No paraphasic errors. Follows simple
commands, unable to follow two-step commands. Low-frequency
naming impaired, high-frequency naming intact. Normal reading of
very simple words, writing not tested. Normal prosody.
Cranial Nerves: [II] PERRL 3->2 brisk. Superior R homonymous
quadrantanopia. [III, IV, VI] EOM intact, end-gaze nystagmus on 
L
gaze. [V] V1-V3 without deficits to light touch bilaterally.
Pterygoids and masseters contract normally. [VII] R-sided facial
droop and ptosis. [VIII] Hearing intact to finger rub
bilaterally. [IX, X] Palate elevation symmetric. [XI]
SCM/Trapezius strength ___ bilaterally. [XII] Tongue midline.
Motor: Normal bulk, spasticity of RUE & RLE with contractures at
wrist & ankle. No pronation or drift. No tremor or asterixis.
[Delt] [Bic] [Tri] [ECR] [FF]  [FE] [IO] [IP] [Quad] [Ham] [TA]
[Gas] [___] [EDB]
L  5      5      5      5       5      5     5      5         5  

5      5        5       5      5
R 5-     5      5-     0      4     2     0     4      5        
4+       5      5        5       5
Sensory: Decreased sensation to light touch, pinprick, and
warm/cold temperature and decreased proprioception to R upper 
and
lower extremities. No deficits to light touch, pinprick, or
proprioception on L side. 
Reflexes
[Bic] [Tri] [___] [Quad] [Ankle]
L 2     2        2          2         2
R 3     3        3          3        4 (with clonus)
+ Babinski sign on R, negative on L.
Coordination: No dysmetria on finger-to-nose L. No
dysdiadochokinesia on L.
Gait: Wide base. Normal initiation. Normal stride length with R
circumduction, limited arm swing on R. Stable stance without
sway. No Romberg. 

DISCHARGE EXAMINATION: Same as admission, with some lessening of 
disinhibition.
 
Pertinent Results:
___ 07:05PM   WBC-4.6 RBC-4.14* HGB-14.4 HCT-42.2 MCV-102* 
MCH-34.7* MCHC-34.1 RDW-11.9
___ 07:05PM   GLUCOSE-103* UREA N-9 CREAT-0.8 SODIUM-138 
POTASSIUM-3.5 CHLORIDE-105 TOTAL CO2-25 ANION GAP-12
___ 07:05PM   TOT PROT-6.6 ALBUMIN-4.5 GLOBULIN-2.1 
CALCIUM-9.3 PHOSPHATE-3.1 MAGNESIUM-2.1
___ 07:05PM   ALT(SGPT)-30 AST(SGOT)-19 ALK PHOS-99 TOT 
BILI-0.2
___ 07:05PM   bnzodzpn-NEG barbitrt-NEG

___ EEG IMPRESSION: This is an abnormal continuous EEG 
monitoring study due to (1) mild generalized background theta 
slowing; (2) superimposed admixed irregular delta slowing in the 
left anterior quadrant; and (3) frequent brief ___ second) 
bursts of ___ Hz bifrontal rhythmic delta activity with a 
leftsided amplitude predominance. There were no epileptiform 
abnormalities or seizures. 

___ EEG IMPRESSION: This is an abnormal continuous EEG 
monitoring study due to (1) a single electrographic seizure with 
diffuse onset throughout the left frontal/temporal/parietal 
region with a voltage maxima in the left anterior quadrant, 
lasting approximately 40 seconds, without clear clinical 
correlate; (2) frequent bursts of ___ Hz bifrontal rhythmic 
delta activity with a leftsided amplitude predominance, up to 40 
seconds long, but without the organization or structure of 
electrographic seizures and without any clear clinical 
correlate; (3) mild generalized background theta slowing; and 
(4) superimposed admixed irregular delta slowing in the left 
anterior quadrant. 

___ EEG IMPRESSION: This is an abnormal continuous EEG 
monitoring study due to (1) frequent bursts of ___ Hz bifrontal 
rhythmic delta activity with a leftsided amplitude predominance, 
up to 40 seconds long, but without the organization or structure 
of electrographic seizures and without any clear clinical 
correlate; (2) mild generalized background theta slowing; and 
(3) superimposed admixed irregular delta slowing in the left 
anterior quadrant. Two pushbutton activations for brief episodes 
of decreased responsiveness to nursing questions were without 
evidence of electrographic seizure activity. 

___ EEG IMPRESSION: This is an abnormal continuous EEG 
monitoring study due to (1) frequent bursts of ___ Hz bifrontal 
rhythmic delta activity with a leftsided amplitude predominance 
without any clear clinical correlate; (2) mild generalized 
background theta slowing; and (3) superimposed admixed irregular 
delta slowing in the left anterior quadrant. There were no 
epileptiform discharges, electrographic, or clinical seizures. 

___ EEG IMPRESSION: This is an abnormal continuous EEG 
monitoring study due to (1) occasional brief bursts of ___ Hz 
bifrontal rhythmic delta activity with a leftsided amplitude 
predominance without any clear clinical correlate; (2) mild 
generalized background theta slowing; and (3) superimposed 
admixed irregular delta slowing in the left anterior quadrant. 
There were no epileptiform discharges, electrographic or 
clinical seizures. 

___ EEG IMPRESSION: This is an abnormal continuous EEG 
monitoring study due to (1) frequent bursts of ___ Hz bifrontal 
rhythmic delta activity with a leftsided amplitude predominance 
without any clear clinical correlate; (2) mild generalized 
background theta slowing; and (3) superimposed admixed irregular 
delta slowing in the left anterior quadrant. There were no 
epileptiform discharges, electrographic, or clinical seizures. 

___ EEG PENDING - PRELIMINARY UNCHANGED FROM PREVIOUS 
RESULTS.
 
Brief Hospital Course:
This is a ___ R-handed M with a history of MVA with 
resulting TBI resulting in substantial left hemispheric 
(frontotemporal predominant) encephalomalacia, subsequent 
epilepsy with multifocal (or single undetected deep focus with 
multiple propagation pathways) onset on prior cEEG, admitted for 
assessment of seizure burden and to transition from 
levetiracetam to lacosamide while monitoring for breakthrough 
events.

# Neurology: Mr. ___ was admitted to the epilepsy service on 
___. He was monitored on video-EEG which showed abnormalities 
which include mild generalized background theta slowing, 
persistent superimposed admixed irregular delta slowing in the 
left anterior quadrant and frequent brief ___ second) bursts of 
___ Hz bifrontal rhythmic delta activity with a leftsided 
amplitude predominance. However, despite some push button 
events, there were no epileptiform abnormalities or seizures 
throughout the course of his admission.

He was initially managed with home doses of trileptal (1500 mg 
BID), levetiracetam (1000 mg BID), and zonisamide (200 mg 
QAM/600 QHS, which mom had increased from 600 QHS several months 
prior). On day 2, his zonisamide and levetiracetam were 
decreased to 600 mg QHS and 750 mg BID, respectively. At that 
time he was started on 50 mg BID lacosamide which was increased 
to 150mg BID while the levetiracetam was tapered off by 
___.  He was discharged on zonisamide 600mg BID, 
oxcarbazepine 1500mg BID, and Vimpat 150mg BID.

# Transitions of care:
- Follow up scheduled with Dr. ___ in ___
- Off Keppra, on Vimpat, Trileptal, Zonegran
- PR interval at discharge = 147
 
Medications on Admission:
1. Zonisamide 200 mg qAM & 600 mg qPM
2. Levetiracetam 1000 mg BID
3. Oxcarbazepine 1500 mg BID
4. Fluoxetine 40 mg QID
5. Simvastatin 40 mg QID
 
Discharge Medications:
1. Fluoxetine 40 mg PO DAILY 
2. Simvastatin 40 mg PO DAILY 
3. Zonisamide 600 mg PO QHS 
4. Oxcarbazepine 1500 mg PO BID 
5. Lacosamide 150 mg PO BID 
RX *lacosamide [Vimpat] 150 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*4
6. Outpatient Physical Therapy
850.0 : Traumatic brain injury
345.9 : Epilepsy unspecified

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Epilepsy 
Secondary: Past traumatic brain injury

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were evaluated at ___ for a 
characterization of seizure activity in the setting of increased 
frequency.  We performed EEG studies over the course of the 
admission which demonstrated some abnormalities, but no specific 
seizure activity, including those events which were identified 
as concerning for seizure activity through push-button 
activation.

We modified your seizure medications over the course of this 
admission to include the medication Vimpat, while tapering off 
the medication Keppra.  This change should give you good control 
of your seizure activity without the same increase in mood 
changes.
 
Followup Instructions:
___